US05516774
N-[4-[(3-Acetyl-5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-yl]carbonyl]phenyl]-2,4-dichlorobenzamide
A stirred solution of 0.954 g of N-[4-(5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-ylcarbonyl)phenyl]-2,4-dichlorobenzamide in 25 ml of methylene chloride and 5 ml of acetic anhydride is heated at reflux for 24 hours. The volatiles are evaporated in vacuo to a residue which is purified by column chromatography on silica gel by elution with ethyl acetate-hexane (7:3) to give 0.800 g of a white solid; mass spectrum (M+H)519.

reactant | N-[4-(5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-ylcarbonyl)phenyl]-2,4-dichlorobenzamide | 0.954 g | C=1C=CN2C1CN(C1=C(C2)C=CC=C1)C(=O)C1=CC=C(C=C1)NC(C1=C(C=C(C=C1)Cl)Cl)=O | C26H19Cl2N3O2
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | N-[4-[(3-Acetyl-5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-yl]carbonyl]phenyl]-2,4-dichlorobenzamide | 0.800 g | C(C)(=O)C1=CC=C2CN(C3=C(CN21)C=CC=C3)C(=O)C3=CC=C(C=C3)NC(C3=C(C=C(C=C3)Cl)Cl)=O | C28H21Cl2N3O3
